US07618978B2
N-(1S,2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(5R,2R)-5-(3-methyl-butoxy)-piperidin-2-yl]-ethyl}-acetamide hydrochloride
Add 4.0 M hydrogen chloride in dioxane (0.46 mL, 1.86 mmoles) to (2R, 5R)-2-{(4S, 5S)-3-Acetyl-4-[3,5-difluoro-benzyl]-2,2-dimethyl-oxazolidin-5-yl}-5-(3-methyl-butoxy)-piperidine-1-carboxylic acid tert-butyl ester (0.05 g, 0.09 mmol) and stir until all starting material is consumed. Concentrate to afford the title product as a white solid (0.04 g, 92%).

reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 1.86 mmoles, 0.46 mL | O1CCOCC1 | C4H8O2
reactant | (2R, 5R)-2-{(4S, 5S)-3-Acetyl-4-[3,5-difluoro-benzyl]-2,2-dimethyl-oxazolidin-5-yl}-5-(3-methyl-butoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.09 mmol, 0.05 g | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)OCCC(C)C)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H44F2N2O5
product | N-(1S,2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(5R,2R)-5-(3-methyl-butoxy)-piperidin-2-yl]-ethyl}-acetamide hydrochloride | 0.04 g, 92% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](CC2)OCCC(C)C)O)NC(C)=O)C=C(C1)F | InChI=1S/C21H32F2N2O3.ClH/c1-13(2)6-7-28-18-4-5-19(24-12-18)21(27)20(25-14(3)26)10-15-8-16(22)11-17(23)9-15;/h8-9,11,13,18-21,24,27H,4-7,10,12H2,1-3H3,(H,25,26);1H/t18-,19-,20+,21-;/m1./s1
